US05616586
9-Bromo-5-(4-pyridylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 51 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and 4-aminopyridine (60 mg, 0.64 mmol) to give 144 mg of the title compound (69%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.10 (bs, 1H), 10.90 (s, 1H), 9.04 (d, 1H, J=2 Hz), 8.50 (d, 2H, J=5.4 Hz), 8.31 (d, 1H, J=9 Hz), 7.78 (dd, 1H, J=5.4, 9 Hz), 7.24 (d, 1H, J=2 Hz), 7.19 (d, 1H, J=2 Hz), 5.17~5.28 (m, 1H), 3.05 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=17.1 Hz), 2.69 (d, 2H, J=7.2 Hz), 2.13 (dm, 1H, J=13.5 Hz), 1.80~1.96 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | 4-aminopyridine | 0.64 mmol, 60 mg | NC1=CC=NC=C1 | C5H6N2
product | 9-Bromo-5-(4-pyridylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 144 mg, 69% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=NC=C2)=O | C18H15BrN4O3
